US07091214B2
Dimethyl 4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-sulfonamide (0.66 g, 1.4 mmol) and phenyl boronic acid (0.20 g, 1.6 mmol) were coupled according to the method described in Part J of Example 1. The reaction was heated at reflux for 14 hours, and the work-up procedure used in Part F of Examples 125–135 was followed. The crude product was recrystallized from methanol and then purified by column chromatography on silica gel (eluting with chloroform:CMA in a gradient from 100:0 to 90:10). The solid was then purified by HPFC to provide 0.14 g of dimethyl 4-[4-amino-2-ethoxymethyl-7-phenyl-1H-imidazo[4,5-c]quinolin-1-yl]butane-1-sulfonamide as Off-white needles, mp 207–208° C.

reactant | Dimethyl 4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-sulfonamide | 1.4 mmol, 0.66 g | CC(CCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)COCC)(S(=O)(=O)N)C | C19H26BrN5O3S
reactant | phenyl boronic acid | 1.6 mmol, 0.20 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | dimethyl 4-[4-amino-2-ethoxymethyl-7-phenyl-1H-imidazo[4,5-c]quinolin-1-yl]butane-1-sulfonamide | 0.14 g | CC(CCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)C2=CC=CC=C2)N)COCC)(S(=O)(=O)N)C | C25H31N5O3S
